US05087640
To a solution of 810 mg of N-(3,5-dichlorophenyl)-N'-(1,1-diethylpropyl)thiourea produced in Example A-7 and 800 mg of triphenylphosphine in 10 ml of dichloromethane were added 380 mg of triethylamine and 590 mg of carbon tetrachloride. The mixture was refluxed for 4 hours and evaporated in vacuo. The residue was stirred with n-hexane and filtered to remove solid matter. The filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography using n-hexane as a solvent to give 640 mg of N-(3,5-dichlorophenyl)-N'-(1,1-diethylpropyl)carbodiimide as an oil. To a solution of this oil in 5 ml of DMF were added 470 mg of cyanamide and 0.05 ml of diisopropylethylamine. The mixture was stirred at 100° C. for 3 hours, cooled to room temperature and poured into water. The resulting crystals were collected and recrystallized from benzene to give 480 mg of the title compound as colorless needles melting at 178.5°-180.5° C.

reactant | N-(3,5-dichlorophenyl)-N'-(1,1-diethylpropyl)thiourea | 810 mg | ClC=1C=C(C=C(C1)Cl)NC(=S)NC(CC)(CC)CC | C14H20Cl2N2S
reactant | triphenylphosphine | 800 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 380 mg | C(C)N(CC)CC | C6H15N
reactant | carbon tetrachloride | 590 mg | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(3,5-dichlorophenyl)-N'-(1,1-diethylpropyl)carbodiimide | 640 mg | ClC=1C=C(C=C(C1)Cl)N=C=NC(CC)(CC)CC | C14H18Cl2N2
